US09023847B2
115. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-2-cyano-1-phenyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using (3R)-3-amino-3-phenylpropanenitrile (Organic Synthesis 2008, 85, 219-230) instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 388 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.55 (1H, br. s.) 10.24 (1H, s) 8.79 (1H, d, J=8.44 Hz) 8.02 (1H, d, J=5.42 Hz) 7.85 (1H, d, J=5.47 Hz) 7.51 (1H, d, J=5.47 Hz) 7.44 (2H, d, J=7.18 Hz) 7.22-7.39 (4H, m) 6.84 (1H, d, J=5.47 Hz) 6.41 (1H, dd, J=3.47, 1.22 Hz) 5.46 (1H, td, J=8.63, 6.47 Hz) 3.01-3.22 (2H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | (3R)-3-amino-3-phenylpropanenitrile | N[C@H](CC#N)C1=CC=CC=C1 | C9H10N2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-2-cyano-1-phenyl-ethyl)-amide | C(#N)C[C@H](C1=CC=CC=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H17N5OS
